US07723352B2
To a −78 C solution of 4-methoxy-N-methylbenzamide (2.0 g) in THF was added n-BuLi (10 mL, 2.5 M in hexanes). The reaction was stirred for 10 min at −78° C., warmed to 0 C, then cooled back to −78 C. 3-fluorobenzaldehyde (1.90 mL) was added as a solution in THF via cannula. The reaction was warmed to room temp, then quenched with saturated aqueous NH4Cl. The mixture was extracted with EtOAc, concentrated, and purified by flash chromatography (5% MeOH in CH2Cl2) to give 2-[(3-fluorophenyl) (hydroxy)methyl]-4-methoxy-N-methylbenzamide.

reactant | 4-methoxy-N-methylbenzamide | 2.0 g | COC1=CC=C(C(=O)NC)C=C1 | C9H11NO2
reactant | n-BuLi | 2.5 M, 10 mL | [Li]CCCC
reactant | 3-fluorobenzaldehyde | 1.90 mL | FC=1C=C(C=O)C=CC1 | C7H5FO
solvent | THF | C1CCOC1 | C4H8O
product | 2-[(3-fluorophenyl) (hydroxy)methyl]-4-methoxy-N-methylbenzamide | FC=1C=C(C=CC1)C(C1=C(C(=O)NC)C=CC(=C1)OC)O | C16H16FNO3
